US08877801B2
To a solution of (E)-ethyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)(methyl)amino)phenyl)acrylate (25.5 mg, 0.05 mmol) in DCM (1.5 mL) at 0° C. was added BBr3 (1.0 M in DCM, 0.215 mL, 0.21 mmol) dropwise. After 4 h at 0° C. the reaction was quenched with sat. aq. NaHCO3 and extracted with 5% MeOH/EtOAc, the combined organic layers were passed through a phase separator and concentrated in vacuo to afford crude (E)-ethyl 3-(4-((6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl)(methyl)amino)phenyl)acrylate which was used without further purification. LC/MS (m/z, MH+): 446.5.

reactant | (E)-ethyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)(methyl)amino)phenyl)acrylate | 0.05 mmol, 25.5 mg | COC=1C=CC2=C(SC(=C2N(C2=CC=C(C=C2)/C=C/C(=O)OCC)C)C2=CC=C(C=C2)OC)C1 | C28H27NO4S
reactant | BBr3 | 0.21 mmol, 1.0 M, 0.215 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | (E)-ethyl 3-(4-((6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl)(methyl)amino)phenyl)acrylate | OC=1C=CC2=C(SC(=C2N(C2=CC=C(C=C2)/C=C/C(=O)OCC)C)C2=CC=C(C=C2)O)C1 | C26H23NO4S
